Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin
 
Attending: ___.
 
Chief Complaint:
Bridging anticoagulation 
 
Major Surgical or Invasive Procedure:
___: Left and right medialization laryngoplasty with Gore-Tex
___: Open exploration of neck and evacuation of hematoma

 
History of Present Illness:
___ is a ___ man with HTN, s/p CVA with resultant hemiplegia 
and pseudobulbar and bulbar findings also with dysarthria and 
dysphasia, bilateral vocal fold atrophy, a right vocal fold 
paresis, secondary muscle tension dysphonia who needs ENT 
surgical intervention on ___. He is directly admitted to 
medicine for bridging anticoagulation prior to planned surgery 
on ___. Reportedly, unable to do Lovenox so admitted for 
Heparin infusion. His last dose of Warfarub was ___ 
and his last INR was ___ yesterday checked at home.
 
He has no significant complaints at this time. No fevers, 
chills, nausea, vomiting, bleeding or bruising. Wife reports 
diarrhea recently. 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies cough, shortness of breath. Denies chest pain 
or tightness, palpitations. Denies nausea, vomiting, 
constipation or abdominal pain. No dysuria. Denies arthralgias 
or myalgias. Otherwise ROS is negative.
   
                                                    

 
Past Medical History:
*S/P STROKE                                                     
DYSARTHRIA                                                      
DYSPHAGIA                                                       
HEMIPLEGIA                                                      
HYPERTENSION                                                    
SNORING                                                         
NEUROPATHY                                                      
PUPULAR LESION                                                  
HOME SERVICES                                                   
ADVANCE CARE PLANNING                                           
H/O NEPHROLITHIASIS                                             
H/O DIABETES TYPE II                                            
H/O HYPERTRIGLYCERIDEMIA                                        
H/O OBESITY                                                     
H/O REHAB   
 
Social History:
___
Family History:
Mother   ___     LUNG CANCER  in ___, smoker; TRANSIENT 
ISCHEMIC  ATTACK    
 
Physical Exam:
ADMISSION EXAM:
Vitals: 97.8 ___ / 91 58 18 93 RA 
Pain Scale: ___
General: Patient appears overall well, chronically debilitated 
but not acutely unwell. Alert, oriented and in no acute distress 
 
HEENT: Sclera anicteric, MMM, poor dentition, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality, no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel 
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing, 
cyanosis or edema    
Neuro: Slow speech with dysphonia, alert and oriented x 3. 
Severe dysarthria. Right eye with eye patch. INtact strength on 
the right side although some limitation in proximal movement of 
the right arm. Nrisk reflexes 3+ on the left leg, but no clonus. 
Decreased sensation with left arm.

DISCHARGE EXAM: 
Vital Signs:  AF 110s-140s/70s-80s ___ 92-98% on 3L
Tele: rates now ___
GEN: Alert, NAD
HEENT: Baseline mild L facial droop
NECK: dressing surrounding neck c/d/i, ecchymosis surrounding 
prior drain site, steristrips
CV: RRR, no m/g/r
PULM: expiratory rhonchi vs upper airway sounds, with air entry 
bilaterally
GI: S/NT/ND
Extr: no edema
NEURO: Baseline L sided hemiparesis; Notable dysphonia and 
dysarthria
PSYCH: normal range of affect
 
Pertinent Results:
ADMISSION LABS:
___ 10:45PM BLOOD WBC-7.1 RBC-4.42* Hgb-13.2* Hct-40.4 
MCV-91 MCH-29.9 MCHC-32.7 RDW-12.8 RDWSD-42.8 Plt ___
___ 10:45PM BLOOD ___ PTT-36.3 ___
___ 10:45PM BLOOD Glucose-169* UreaN-15 Creat-0.8 Na-144 
K-3.2* Cl-106 HCO3-26 AnGap-12
___ 10:45PM BLOOD Calcium-8.9 Phos-3.0 Mg-1.8

DISCHARGE LABS:
___ 07:40AM BLOOD WBC-11.2* RBC-4.19* Hgb-12.6* Hct-38.7* 
MCV-92 MCH-30.1 MCHC-32.6 RDW-12.8 RDWSD-43.1 Plt ___
___ 07:40AM BLOOD ___
___ 07:40AM BLOOD Glucose-87 UreaN-10 Creat-0.6 Na-145 
K-3.9 Cl-103 HCO3-31 AnGap-11

WBC trend:
7 -> 7 -> 16 -> 16 -> 13 -> 12 -> 8 -> 10 ->11

CXR (___) - IMPRESSION: 
In comparison with the study of ___, there are 
lower lung
volumes.  Cardiac silhouette is within normal limits and there 
is minimal
indistinctness of pulmonary vessels that could represent small 
of a shin in
pulmonary venous pressure.  Opacification at the left base most 
likely
represents atelectatic changes with possible small effusion.

CXR (___) - FINDINGS:
Over left lower lung field increased opacification is seen 
concerning for
aspiration or worsening pneumonia
No signs of pulmonary edema.
The cardiomediastinal silhouette is within normal limits .
No pleural effusion.
IMPRESSION:
Left lower lung opacification concerning for aspiration / 
pneumonia.

 
Brief Hospital Course:
___ y/o M with PMHx HTN, s/p CVA with resultant hemiplegia and 
pseudobulbar and bulbar findings also with dysarthria and 
dysphasia, bilateral vocal fold atrophy, a right vocal fold 
paresis, secondary muscle tension dysphonia who was admitted for 
bridging anticoagulation with heparin gtt in the setting of 
planned ENT surgical intervention on ___. Post-operative course 
complicated by bleeding and hematoma formation, requiring return 
to the OR, as well as overt aspiration. Despite recommendations 
for NG or PEG for alternative feeding route, the patient 
adamantly declined, as he had these in the past and it was not 
consistent with his goals of care. This was discussed 
extensively with him and his wife on numerous occasions.

# PRIOR BRAINSTEM STROKE / VOCAL CORD ATROPHY: With hemiplegia, 
bulbar and pseudobulbar findings, as well as bilateral vocal 
cord atrophy and right vocal cord paresis, admitted for planned 
medialization laryngoplasty left and right. He was admitted for 
perioperative bridging with heparin gtt. Underwent bilateral 
medialization laryngoplasty ___. Was placed back on heparin gtt 
and Coumadin post-operatively; however, this was complicated by 
bleeding / hematoma. He is now s/p evacuation of hematoma and JP 
drain placement. H/H since stable. He was restarted on 
anticoagulation and bridged back to coumadin. He received 1 week 
of augmentin/unasyn post-op. His drain was pulled on ___. He 
continued to struggle with phonation post-op, although this may 
improve over time per ENT. He will f/u with ENT in clinic. He 
has steristrips in place, which will fall off over time. 

#Anticoagulation:
Became supratherapeutic (3.3 from 2.0 the prior day) once 
restarted on home coumadin dose (6 mg 4x weekly, 3 mg 3x 
weekly). Coumadin held on ___ and restarted at 3 mg on  ___. 
INR 2.7 on ___. Antibiotics and being NPO probably contributed. 
Patient has home POC INR machine at home and will titrate 
closely, working with ___ clinic. For now recommended 3 mg 
daily, although pending values over upcoming days may return to 
closer to home dosing.

# ASPIRATION: Noted to have several episode of coughing and 
severe desaturation after eating. He was seen by ___ who noted 
aspiration and recommended NPO. The patient was not in agreement 
with NGT or PEG. Therefore, he was placed on IVFs while NPO. No 
significnt suspicion for pneumonia, likely because patient 
already on augmentin at time of aspiration event and lacked a 
clinical picture suggestive of infection. Swallowing was 
reassessed after several days but not found to be improved. 
Patient preferred to eat with risk of aspiration rather than 
consider feeding tube. Made recommendations for safest modified 
diet considering this preference after multiple extensive 
discussions (honey/ground diet, aspiration precautions, 
continued SLP therapy at home)

# HYPERTENSION
# Bradycardia
Continued lisinopril. Atenolol reduced from 50 to 25 due to 
bradycardia, which subsequently improved from ___ to 
___. BP remained in 110s-150s, may need further titration as 
outpatient.

# HLD: On statin.

#Thrombocytopenia:
Mild. Slightly improved during admission. Follow-up as 
outpatient

#Leukocytosis:
Worsening on HD3, subsequently improved although mildly elevated 
at time of discharge. Low suspicion for infection. Can monitor 
as outpatient

========================================
Transitional issues:
(1) close monitoring of INR and close communication with 
___ clinic about dose adjustments (patient checks INR at 
home with POC machine and discusses with ___ clinic) - for 
now is on 3 mg daily, but will likely require uptitration back 
toward prior dosing of ___
(2) honey thickened/ground diet, aspiration precations, home SLP 
therapy. Contined discssions as outpatient abot goals of care 
and nutrition.
(3) follow-up with primary care scheduled and ENT follow-p to be 
schedled
(4) repeat CBC in follow-up given mild thrombocytopenia and mild 
lekocytosis
(5) evaluation of drain wound (R neck) in follow-up; steristrips 
can be allowed to fall off on their own

========================================
>30 minutes spent in patient care and coordination of discharge 
on day of discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxazosin 4 mg PO HS 
2. Lisinopril 40 mg PO DAILY 
3. Glycopyrrolate 1 mg PO TID:PRN secretions 
4. ClonazePAM 0.5 mg PO QHS 
5. Atenolol 50 mg PO QHS 
6. dextromethorphan-quinidine ___ mg oral BID 
7. Warfarin 6 mg PO 4X/WEEK (___) 
8. Warfarin 3 mg PO 3X/WEEK (___) 
9. Atorvastatin 40 mg PO QPM 
10. Ketoconazole Shampoo 1 Appl TP ASDIR 
11. Docusate Sodium 100 mg PO BID 

 
Discharge Medications:
1.  Atenolol 25 mg PO QHS  
2.  Warfarin 3 mg PO DAILY16  
3.  Warfarin 3 mg PO DAILY16  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  Atorvastatin 40 mg PO QPM  
6.  ClonazePAM 0.5 mg PO QHS  
7.  dextromethorphan-quinidine ___ mg oral BID  
8.  Docusate Sodium 100 mg PO BID:PRN constipation  
9.  Doxazosin 4 mg PO HS  
10.  Glycopyrrolate 1 mg PO TID:PRN secretions  
11.  Ketoconazole Shampoo 1 Appl TP ASDIR  
12.  Lisinopril 40 mg PO DAILY  
13.  nystatin 100,000 unit/gram topical BID  
14.Home Oxygen
Home O2.  Length of need for O2: 99 months. 2 L continuous O2 at 
rest and with ambulation. Include concentrator and portables. 
Diagnosis hypoxia: 799.02. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
History of stroke
Vocal Cord Atrophy / Paresis
Aspiration/Dysphagia
Hypoxia
Low platelets
Low heart rate

 
Discharge Condition:
Alert and interactive, but with significant dysphonia. Reduced 
functional status from his baseline. Hemodynamically stable. 

 
Discharge Instructions:
You presented to the hospital for heparin bridging in 
anticipation of your planned ENT surgery. Your postoperative 
course was complicated by bleeding requiring repeat surgery. 
Your course was also complicated by episodes of aspiration. 
Because of this aspiration, you were made NPO and placed on IV 
fluids. After several days, we reassessed your swallowing and 
found that you were still aspirating. Based on your preference 
to absolutely avoid a feeding tube of any sort and to take the 
risk of aspirating with eating food, we recommended that you 
take a modified diet with honey thickened liquids and ground 
solids. We also recommend supplemental oxygen until your oxygen 
levels have recovered.

You INR rose very quickly when restarted on coumadin, most 
likely because of your antibiotics and reduced oral intake. 
Therefore for now we have reduced your dosing to 3 mg daily. 
However this will likely be increased in the future, and over 
the next ___ weeks you should monitor closely and be in close 
communication with your ___ clinic. 

Of note we reduced your atenolol dose due to low heart rates. 
Your blood pressures have been overall in a reasonable range 
despite this change, but you should continue monitoring the 
blood pressure and if elevated then you may need a different 
blood pressure medication instead.
 
Followup Instructions:
___